US07566724B2
Under an argon atmosphere, a solution of n-butyllithium (1.50 M, in hexane) (0.5 ml) was added dropwise to a solution of 1,4-diiodobenzene (250 mg) in anhydrous THF (3 ml) at −78° C., and the resulting mixture was stirred at −78° C. for 30 minutes. Oxepan-4-one (151 mg) was added to the reaction solution, and the resulting mixture was stirred at −78° C. for 1 hour. Saturated aqueous ammonium chloride solution was added thereto, and the resulting mixture was extracted with ethyl acetate. Organic layer was washed with saturated brine, and dried over anhydrous sodium sulfate. After removing anhydrous sodium sulfate by filtration, the filtrate was concentrated. The residue was purified by column chromatography (silica gel, eluent: hexane/ethyl acetate=5/1) to obtain 4-(4-iodophenyl)oxepan-4-ol (89 mg). (2) Under an argon atmosphere, a solution of 4-(4-iodophenyl)oxepan-4-ol (86 mg) obtained in (1) in anhydrous DMF (1.0 mL) was added to a suspension of sodium hydride (60 wt %) (16 mg) in anhydrous DMF (1.0 ml) at 0° C., and the resulting mixture was stirred at 0° C. for 30 minutes. Methyl iodide (0.025 ml) was added dropwise to the reaction solution, and the resulting mixture was stirred at room temperature for 10 hours. Saturated brine was added thereto, and the resulting mixture was extracted 3 times with ethyl acetate. Organic layers were washed with saturated brine and dried over anhydrous sodium sulfate. After removing anhydrous sodium sulfate by filtration, the filtrate was concentrated. The residue was purified by column chromatography (silica gel, eluent: hexane/ethyl acetate=6/1) to obtain 4-(4-iodophenyl)-4-methoxyoxepane (63 mg).

reactant | n-butyllithium | 1.50 M, 0.5 ml | C(CCC)[Li]
reactant | 1,4-diiodobenzene | 250 mg | IC1=CC=C(C=C1)I | C6H4I2
reactant | Oxepan-4-one | 151 mg | O1CCC(CCC1)=O | C6H10O2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 3 ml | C1CCOC1 | C4H8O
product | 4-(4-iodophenyl)oxepan-4-ol | 89 mg | IC1=CC=C(C=C1)C1(CCOCCC1)O | C12H15IO2
